US06204264B1
(1) N-[3-(1H-imidazol-1-yl)propyl]-2-nitroaniline
1-(3-Aminopropyl)imidazole (4.55 ml) was added to 2-chloronitrobenzene (3.000 g) and stirred for 15 hours at 125° C. The reaction mixture, with ethyl acetate added thereto, was washed with 1N sodium hydroxide aqueous solution, and extracted with 1N hydrochloric acid aqueous solution. The extract was alkalified with 1N sodium hydroxide aqueous solution, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over sodium sulfate anhydride, and concentrated, thereby yielding the entitled compound (4.442 g) as orange oil.

reactant | 1-(3-Aminopropyl)imidazole | 4.55 ml | NCCCN1C=NC=C1 | C6H11N3
reactant | 2-chloronitrobenzene | 3.000 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(1H-imidazol-1-yl)propyl]-2-nitroaniline | 4.442 g | N1(C=NC=C1)CCCNC1=C(C=CC=C1)[N+](=O)[O-] | C12H14N4O2
